US08859577B2
A solution of 2-(4-(tert-butoxycarbonyl)phenyl)-6-methoxyisonicotinic acid (500 mg, 1.52 mmol) and 1,1-carbonyldiimidazole (271 mg, 1.67 mmol) in tetrahydrofuran (30 mL) was stirred at reflux for 1 hr. After cooling to room temperature 1-isopropyl-4,6-dihydrospiro[indazole-5,4′-piperidin]-7(1H)-one (539 mg, 1.68 mmol) and triethylamine (0.32 mL, 2.28 mmol) were added sequentially and the resulting slurry was heated at reflux temperature for 1 hr. After cooling, the reaction mixture was diluted into ethyl acetate, washed with 1N aqueous hydrochloric acid, saturated aqueous sodium chloride, dried over sodium sulfate to afford tert-butyl 3-(4-(1-isopropyl-7-oxo-1,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-ylcarbonyl)-6-methoxypyridin-2-yl)benzoate (850 mg) as a white foam. This material was taken onto the next step without further purification. 1H NMR (400 MHz, CDCl3) δ ppm 8.60 (t, J=1.66 Hz, 1H), 8.20 (dt, J=8.05, 1.44 Hz, 1H), 8.01 (dt, J=7.80, 1.37 Hz, 1H), 7.50 (t, J=7.80 Hz, 1H), 7.36 (s, 1H), 7.33 (d, J=0.98 Hz, 1H), 6.64 (d, 1H), 5.35 (spt, J=6.44 Hz, 1H), 4.04 (s, 3H), 3.71-3.84 (m, 2H), 3.36-3.42 (m, 2H), 2.79 (d, J=2.34 Hz, 2H), 2.58 (s, 2H), 1.66-1.72 (m, 2H), 1.61 (s, 9H), 1.56 (s, 2H), 1.40-1.48 (m, 6H); m/z (M+1)=559.2.

reactant | 2-(4-(tert-butoxycarbonyl)phenyl)-6-methoxyisonicotinic acid | 1.52 mmol, 500 mg | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C=1C=C(C(=O)O)C=C(N1)OC | C18H19NO5
reactant | 1-isopropyl-4,6-dihydrospiro[indazole-5,4′-piperidin]-7(1H)-one | 1.68 mmol, 539 mg | C(C)(C)N1N=CC=2CC3(CCNCC3)CC(C12)=O | C14H21N3O
reactant | triethylamine | 2.28 mmol, 0.32 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | tert-butyl 3-(4-(1-isopropyl-7-oxo-1,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-ylcarbonyl)-6-methoxypyridin-2-yl)benzoate | 850 mg | C(C)(C)N1N=CC=2CC3(CCN(CC3)C(=O)C3=CC(=NC(=C3)OC)C=3C=C(C(=O)OC(C)(C)C)C=CC3)CC(C12)=O | C32H38N4O5
